US09212190B2
Into a 50-mL round-bottom flask, a solution of 2-amino-N-methylacetamide hydrochloride (1.2 g, crude) and 4 M aqueous sodium hydroxide (3 mL) in 10 mL of THF was added Boc2O (900 mg) at 0° C. and the resulting solution was stirred for 2 h at room temperature. The resulting solution was diluted with 20 mL of water and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:20 to 1:10) to afford the desired tert-butyl N—[(methylcarbamoyl)methyl]carbamate (0.3 g, 31%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 6.51 (br s, 1H), 5.43 (br s, 1H), 3.78 (d, 2H), 2.87-2.81 (d, 3H), 1.44 (s, 9H).

reactant | 2-amino-N-methylacetamide hydrochloride | 1.2 g | Cl.NCC(=O)NC
reactant | sodium hydroxide | 4 M, 3 mL | [OH-].[Na+]
reactant | Boc2O | 900 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | tert-butyl N—[(methylcarbamoyl)methyl]carbamate | 0.3 g, 31% | CNC(=O)CNC(OC(C)(C)C)=O | C8H16N2O3
